US06762189B1
Preparation of 4-(1H-6-Indazolylamino)-2-methylthio-5-pyrimidinecarboxylic Acid Ethyl Ester
To the solution of 4-chloro-2-methylthio-5-pyrimidine carboxylic acid ethyl ester (5 g) and 6-aminoindazole (3.15 g) in methanol (70 ml) was added N,N-diisopropylethylamine (4.2 ml), and then the solution was reacted at 30-35° C. for 4 hr. The reaction mixture was cooled, and then stirred at 20° C. for 1 hr. The reaction mixture was filtered, washed with methanol (20 ml) and dried at 40-50° C. in vacuo to obtain the desired compound (5.8 g, 82%).

reactant | 4-chloro-2-methylthio-5-pyrimidine carboxylic acid ethyl ester | 5 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)Cl | C8H9ClN2O2S
reactant | 6-aminoindazole | 3.15 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | N,N-diisopropylethylamine | 4.2 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methanol | 70 ml | CO | CH4O
product | 4-(1H-6-Indazolylamino)-2-methylthio-5-pyrimidinecarboxylic Acid Ethyl Ester | 5.8 g, 82% | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC1=CC=C2C=NNC2=C1 | C15H15N5O2S
